US08349827B2
Step 3: Preparation of 5H-benzo[b]pyrido[4,3-f]azepin-6(11H)-one
To a solution of diisopropylamine (7.61 mL, 53.89 mmol) and tetramethylethylenediamine (8.13 mL, 53.89 mmol) in THF (50 mL) was added n-butyllithium (1.6 M, 34.2 mL, 54.77 mmol) at −78° C. The mixture was stirred at −78° C. for 30 min., then 0° C. for 10 min. This solution was transferred into a solution of N,N-dimethyl-2-((4-methylpyridin-3-yl)amino)benzamide in THF (100 mL) at 0° C. The resulting solution was stirred overnight and quenched by adding saturated ammonium chloride solution (20 mL). The solvent was then removed under reduced pressure and the residue dissolved in dichloromethane (100 mL), washed with water (100 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by flash chromatography (SiO2, 50% hexane in ethyl acetate) to afford the pure desired product, 5H-benzo[b]pyrido[4,3-f]azepin-6(11H)-one (2.2 g) as a yellow solid. 400 MHz 1H NMR (DMSO-d6) δ 9.68 1H), 8.53 (s, 1H), 8.27 (d, J=4.4 Hz, 1H), 7.79 (m, 1H), 7.53-7.49 (m, 1H), 7.38-6.89 (m, 2H), 6.93-6.89 (m, 1H), 3.78 (s, 2H); LCMS (M+H)=211.

reactant | diisopropylamine | 53.89 mmol, 7.61 mL | C(C)(C)NC(C)C | C6H15N
reactant | tetramethylethylenediamine | 53.89 mmol, 8.13 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 54.77 mmol, 1.6 M, 34.2 mL | C(CCC)[Li]
reactant | N,N-dimethyl-2-((4-methylpyridin-3-yl)amino)benzamide | CN(C(C1=C(C=CC=C1)NC=1C=NC=CC1C)=O)C | C15H17N3O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5H-benzo[b]pyrido[4,3-f]azepin-6(11H)-one | 2.2 g | C1=NC=CC=2CC(C3=C(NC21)C=CC=C3)=O | C13H10N2O
